US07163947B2
A solution of 4-chloro-3-nitroquinoline (5.00 g, 24.0 mmol) in 100 mL of CH2Cl2 was treated with triethylamine (6.37 mL, 48.0 mmol) and 4-aminomorpholine (3.47 mL, 36.0 mL) under an atmosphere of nitrogen. After 15 h, the reaction mixture was diluted with 5% Na2CO3 solution and CHCl3, and the phases were separated. The organic portion was washed with another portion of 5% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield a bright yellow solid. Recrystallization from acetonitrile gave N-(morpholin4-yl)(3-nitroquinolin-4-yl)amine (4.54 g) as bright yellow needle-like crystals.

reactant | 4-chloro-3-nitroquinoline | 24.0 mmol, 5.00 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 48.0 mmol, 6.37 mL | C(C)N(CC)CC | C6H15N
reactant | 4-aminomorpholine | 3.47 mL | NN1CCOCC1 | C4H10N2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-(morpholin4-yl)(3-nitroquinolin-4-yl)amine | 4.54 g | N1(CCOCC1)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H14N4O3
